US07906654B2
Synthesis of 2-[(2-chloro-6-aminophenyl)amino]ethanol
To a solution of 2-[(2-chloro-6-nitrophenyl)amino]ethanol (120 g, 0.554 mol) in methanol (1.5 l) at 60° C. is added a solution of Na2S2O4 (85%, 318 g, 1.55 mol) in water (1.12 l) over 20 min. The obtained suspension is stirred at 60° C. for additional 20 min. The decolourized mixture is allowed to cool and concentrated under vacuum. In an ice bath, 800 ml of 1.5 M NaOH solution is added and the mixture is extracted three times with 500 ml of AcOEt. The organic phase is washed with brine and dried over magnesium sulphate. The solvents are evaporated to give the desired product (72.4 g, 70%).

reactant | 2-[(2-chloro-6-nitrophenyl)amino]ethanol | 0.554 mol, 120 g | ClC1=C(C(=CC=C1)[N+](=O)[O-])NCCO | C8H9ClN2O3
reactant | Na2S2O4 | 1.55 mol, 318 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | methanol | 1.5 l | CO | CH4O
solvent | water | 1.12 l | O | H2O
product | 2-[(2-chloro-6-aminophenyl)amino]ethanol | 72.4 g, 70% | ClC1=C(C(=CC=C1)N)NCCO | C8H11ClN2O
